US07514449B2
3-(Benzyloxy)-6-bromopyridine-2-carbonitrile
6-Bromo-3-hydroxypyridine-2-carbonitrile (53.8 g) obtained in Reference Example 72(1) is dissolved in acetone (550 ml), and thereto are added benzyl bromide (35.6 ml) and potassium carbonate (43.1 g). The mixture is then heated under reflux for 4 hours. After allowing to cool, water (600 ml) is added to the reaction solution, and the mixture is extracted with ethyl acetate. The aqueous layer is extracted with ethyl acetate once, and combined with the previous organic layer. The solution is washed with saturated brine and dried over sodium sulfate. The solvent is removed by evaporation under reduced pressure and the residue is purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=5/1, followed by 3/1). The resulting residue is suspended in diethyl ether/n-hexane and the solid is collected by filtration to give the title compound (24.1 g).

reactant | 6-Bromo-3-hydroxypyridine-2-carbonitrile | 53.8 g | BrC1=CC=C(C(=N1)C#N)O | C6H3BrN2O
reactant | benzyl bromide | 35.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 43.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 600 ml | O | H2O
solvent | acetone | 550 ml | CC(=O)C | C3H6O
product | 3-(Benzyloxy)-6-bromopyridine-2-carbonitrile | 24.1 g | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)Br)C#N | C13H9BrN2O
